US09403846B2
Step 4. Synthesis of 1-[1-(2,2-diethoxyethoxyl)but-3-en-1-yl]-1-methylcyclopropane (C53)
A solution of 1-(1-methylcyclopropyl)but-3-en-1-ol (C52) (6.0 g, 47.6 mmol) in tetrahydrofuran (50 mL) was added to a 0° C. suspension of sodium hydride (60% in mineral oil, 7.7 g, 190.5 mmol) in tetrahydrofuran (200 mL). After stirring at room temperature for 10 minutes, 2-bromo-1,1-diethoxyethane (97%, 37.5 g, 190.5 mmol) was added drop-wise at room temperature. The reaction mixture was heated to 75° C. for 24 hours. It was then cooled to 0° C., slowly quenched with water (200 mL) and extracted with dichloromethane (3×500 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo; purification via silica gel chromatography (Gradient: 0% to 10% ethyl acetate in petroleum ether) afforded the product as a yellow oil.

reactant | 1-(1-methylcyclopropyl)but-3-en-1-ol | 47.6 mmol, 6.0 g | CC1(CC1)C(CC=C)O | C8H14O
reactant | sodium hydride | 190.5 mmol, 7.7 g | [H-].[Na+]
reactant | 2-bromo-1,1-diethoxyethane | 190.5 mmol, 37.5 g | BrCC(OCC)OCC | C6H13BrO2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 1-[1-(2,2-diethoxyethoxyl)but-3-en-1-yl]-1-methylcyclopropane | C(C)OC(COC(CC=C)C1(CC1)C)OCC | C14H26O3
